* Copyright (c) 1998-2022 Analog Devices, Inc.  All rights reserved.
*
.subckt AD8676 1 2 3 4 5
C1 N005 N004 {Cf}
A1 N008 0 N010 N010 N010 N010 N004 N010 OTA g={Ga} Iout={Islew} en=2.8n enk=4.5 Vhigh=1e308 Vlow=-1e308
D5 N005 3 X1
D6 4 N005 X2
G2 0 N010 3 0 500ต
R4 N010 0 1k Noiseless
G3 0 N010 4 0 500ต
S1 N004 N010 4 3 SD
C4 N002 0 {5p*x} Rpar=1k Noiseless
C11 3 2 950f Rpar=1T Noiseless
C18 2 1 8.65p Rpar=1T Noiseless
D8 3 1 1nA m=0.5
C3 3 5 250f
C7 5 4 250f
A2 2 1 0 0 0 0 0 0 OTA g=0 in=.1p ink=1.5k incm=.1p incmk=1.5k
ึงA3 N005 3 4 N004 N010 Gm1={Gb} Ibias={Isy}
C2 2 4 950f Rpar=1T Noiseless
C5 3 1 950f Rpar=1T Noiseless
C6 1 4 950f Rpar=1T Noiseless
D1 3 2 1nA m=0.5
B3 N002 0 I=2m*Dnlim(Uplim(V(2),V(3)-2, 0.1), V(4)+2, 0.1)+100n*V(2)
B4 0 N002 I=2m*(Vos+V(PSR)+Dnlim(Uplim(V(1),V(3)-2, 0.1), V(4)+2, .01)+100n*V(1))
D3 N004 N010 IO
R5 5 N005 22
L1 N002 N006 {5ต*x}
L2 N007 N008 {5ต*x}
C10 N008 0 {5p*x} Rpar=1k Noiseless
C8 N006 0 {10p*x}
L3 N006 N007 {5ต*x}
C12 N007 0 {10p*x}
G1 0 PSR VS 0 1ต
R3 PSR 0 1 Noiseless
G4 0 VS 3 4 1m
C13 VS 0 1f Rpar=1k Noiseless
.param Cf = 6p
.param Ro       =  5k
.param Avol     =  4Meg
.param RL       =  2k
.param AVmid =  10
.param FmidA = 1Meg
.param Zomid  = 5
.param FmidZ  = 1Meg
.param Vslew  = 2.5Meg
.param Vmin = 2
.param Roe = 1/(1/RL+1/Ro)
.param Gb = ((FmidZ/FmidA)*(Roe/(AVmid*Zomid))-1)/Roe
.param Ga = 2*pi*FmidZ*Cf/(Zomid*gb)
.param RH = Avol/(Ga*Gb*Roe)
.param Islew = Vslew*Cf*(1+1/(Roe*Gb))
.model X1 D(Ron=1m Roff=1G Vfwd=-50m epsilon=10m Noiseless)
.model X2 D(Ron=1m Roff=1G Vfwd=20m epsilon=10m Noiseless)
.model SD SW(Ron=10m Roff={RH} Vt={-Vmin-100m} Vh=-.1 Noiseless)
.model 1nA D(Ron=500Meg epsilon=.5 Ilimit=1n Noiseless)
.model IO  D(Ron=2k Roff=1T Vfwd={Isc/Gb} Vrev={Isc/Gb} revepsilon=.1 epsilon=.1 Noiseless)
.param X=.6
.param Vos=-18u
.param Isc=37.1m
.param Isy=2.7m
.param gain_PSRp = {pow(10, (-Rej_dc_PSRp/20))}
.param C1a_PSRp = {1 / (2 * pi * R1a_PSRp * fz1_PSRp)}
.param R2a_PSRp = {R1a_PSRp/ ((2 * pi * fp1_PSRp * C1a_PSRp
+* R1a_PSRp) - 1)}
.param actual1_PSRp = {R2a_PSRp / (R1a_PSRp + R2a_PSRp)}
.param G1_PSRp = {gain_PSRp/actual1_PSRp}
.param Rej_dc_PSRp=120
.param R1a_PSRp=1Meg
.param fz1_PSRp=1k
.param fp1_PSRp=10Meg
.ends AD8676
